US05948820
(5) 4-(2-(4-Benzyloxyphenyl)ethyl)-3-tert-butoxycarbonyl-4-ethyloxazolidin-2-one
To a suspension of sodium hydride (2.5 g) in dimethylformamide (30 ml) was added a solution of 4-ethyl-4-(2-(4-benzyloxyphenyl)ethyl)-oxazolidin-2-one (19 g) in dimethylformamide (250 ml) at 0° C. and the mixture was stirred at room temperature for an hour. Di-tert-butyl-dicarbonate (15 g) was added to the solution at 0° C. and the mixture was stirred at 0° C. for 2 hours. Ethyl acetate was added to the reaction mixture and the mixture was washed with water and a saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure and the residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:2) to give the subject compound (18 g).

reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | 4-ethyl-4-(2-(4-benzyloxyphenyl)ethyl)-oxazolidin-2-one | 19 g | C(C)C1(NC(OC1)=O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H23NO3
reactant | Di-tert-butyl-dicarbonate | 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-(2-(4-Benzyloxyphenyl)ethyl)-3-tert-butoxycarbonyl-4-ethyloxazolidin-2-one | 18 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1(N(C(OC1)=O)C(=O)OC(C)(C)C)CC | C25H31NO5
